US07491710B2
1.12 g of 5-benzyloxy-3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yI]-1H-indazole are dissolved in 55 ml of absolute ethanol and then 424 mg of palladium-on-charcoal, 587 mg of ammonium formate and 227 μl of triethylamine are successively added. The reaction medium is stirred at 67° C. (internal temperature of the suspension). A substantial amount of gas is seen to be given off. After stirring for one hour, the medium is filtered through paper and the catalyst is rinsed with absolute ethanol. The filtrate is concentrated under vacuum to obtain 558 mg of 3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ol.

reactant | 5-benzyloxy-3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yI]-1H-indazole | 1.12 g | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C=1NC2=CC=C(C=C2C1)OCCN1CCOCC1 | C28H28N4O3
reactant | ammonium formate | 587 mg | C(=O)[O-].[NH4+]
reactant | triethylamine | 227 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 55 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 424 mg | [Pd] | Pd
product | 3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ol | 558 mg | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C1=NNC2=CC=C(C=C12)O | C21H22N4O3
